US05852031
A solution of 8.41 g (62 mmol) of 5-fluoroindole in 250 mL of DMF was treated with 2.46 g (62 mmol) of sodium hydride (60% oil dispersion) and the mixture stirred at 50° C. for 1.5 h. Heating was stopped temporarily, 7.73 g (22.2 mmol) of (7R,9aS)-2-BOC-7-(methanesulfonyloxy)methyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine in 250 mL of DMF was added, and the mixture stirred at 100° C. for 2 h. The mixture was cooled to room temperature, diluted with water, acidified to pH 2 with 6M hydrochloric acid, and washed with ethyl acetate. The aqueous phase was basified to pH 12 with conc. ammonium hydroxide and extracted with ethyl acetate (3×). The combined organic phase was dried (magnesium sulfate), filtered and evaporated. Purification by flash silica gel chromatography with ethyl acetate gave 3.09 g (36%) of (7R,9aS)-2-BOC-7-(5-fluoroindol-1-yl)methyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine.

reactant | 5-fluoroindole | 62 mmol, 8.41 g | FC=1C=C2C=CNC2=CC1 | C8H6FN
reactant | sodium hydride | 62 mmol, 2.46 g | [H-].[Na+]
reactant | (7R,9aS)-2-BOC-7-(methanesulfonyloxy)methyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | 22.2 mmol, 7.73 g | C(=O)(OC(C)(C)C)N1C[C@H]2N(CC1)C[C@@H](CC2)COS(=O)(=O)C | C15H28N2O5S
reactant | hydrochloric acid | 6M | Cl | ClH
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (7R,9aS)-2-BOC-7-(5-fluoroindol-1-yl)methyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | 3.09 g, 36% | C(=O)(OC(C)(C)C)N1C[C@H]2N(CC1)C[C@@H](CC2)CN2C=CC1=CC(=CC=C21)F | C22H30FN3O2
